* D:\2025\AudioAmp_EQ\Analog\3_Band_EQ_60W_Amp\SPICE_circuits\stereo_to_mono.asc
V1 Left_Channel 0 SINE(0 0.5 1k)
V2 Right_Channel 0 SINE(0 0.5 1k)
V3 -25V 0 -25
V4 +25V 0 25
XU6 N016 LPF_S1 +15V -15V LPF_S1 TL081
R6 N015 HPF_IN 47k
R7 N016 N015 12k
C2 N016 0 0.01µ
C3 LPF_S1 N015 0.1µ
V5 +15V 0 15
V6 -15V 0 -15
XU7 N014 N012 +15V -15V LPFilter TL081
R10 N013 LPF_S1 22k
R11 N014 N013 39k
C4 N014 0 0.033µ
C5 LPFilter N013 0.022µ
R5 LPFilter LPF_OUT 57.12k
R14 LPF_OUT 0 57.12k
XU8 N022 N017 +15V -15V HPF_S1 TL081
R16 HPF_S1 N017 27k
R17 N017 0 22k
XU9 N020 N018 +15V -15V N018 TL081
C1 N022 N021 0.01µ
C7 N021 HPF_IN 0.01µ
C9 N020 N019 0.001µ
C10 N019 HPF_S1 0.001µ
R15 N020 0 33k
R18 N022 0 3.3k
R21 HPF_S1 N021 3.3k
R22 N018 N019 30k
XU3 N035 N027 +15V -15V N027 TL081
R25 N034 HPF_IN 22k
R26 N035 N034 6.8k
C6 N035 0 0.001µ
C8 N027 N034 0.01µ
XU5 N033 N026 +15V -15V N026 TL081
R29 N032 N027 82k
R30 N033 N032 27k
C11 N033 0 680p
C12 N026 N032 1n
XU10 N031 N024 +15V -15V N025 TL081
R35 N025 N024 27k
R36 N024 0 22k
XU11 N029 N023 +15V -15V N023 TL081
C13 N031 N030 0.1µ
C14 N030 N026 0.1µ
C15 N029 N028 0.1µ
C16 N028 N025 0.1µ
R39 N029 0 6.8k
R40 N031 0 6.8k
R41 N025 N030 6.8k
R42 N023 N028 5.6k
R33 LPFilter N012 12k
R34 N012 0 10k
R37 N001 LPF_OUT 220k
R38 N001 HPF_OUT 220k
R45 N001 BPF_OUT 220k
XU12 0 N001 +15V -15V EQ_OUT TL081
R46 EQ_OUT N001 220k
R44 N018 HPF_OUT 57.12k
R47 HPF_OUT 0 57.12k
R23 N023 BPF_OUT 57.12k
R24 BPF_OUT 0 57.12k
XU13 0 N004 +15V -15V VOL_OUT TL081
R43 VOL_OUT N004 220k
XU14 N008 N002 +15V -15V N002 TL081
XU15 N006 N003 +15V -15V N003 TL081
C17 N008 N007 0.1µ
C18 N007 EQ_OUT 0.1µ
C19 N006 N005 0.1µ
C20 N005 N002 0.1µ
R12 N006 0 47k
R13 N008 0 100k
R19 N002 N007 15k
R20 N003 N005 39k
C21 VOL_IN N003 10µ
R8 N004 VOL_IN 38k
XU16 Left_Channel N009 +15V -15V N009 TL081
XU17 Right_Channel N011 +15V -15V N011 TL081
R9 PotLeft N009 82k
R27 PotRight N011 82k
XU18 0 N010 +15V -15V HPF_IN TL081
R28 HPF_IN N010 90k
R31 PotLeft 0 110k
R32 0 PotRight 110k
R48 N010 PotLeft 56k
R49 N010 PotRight 56k
C22 out VOL_OUT 0.1µ
R1 out 0 25k
.lib models.cir
* DC Power Supplies
;op
;tran 0.003
* Left & Right Channel Supplies
.lib regulators.lib
* +15V and -15V Regulators
.tran 0.05
* Low (Bass) Filter with gain control
* High (Presence/Brilliance) Filter with gain control
* Pot
* Pot
* Pot
* Summing Filters Back Circuit
* 50Hz HPF
* Volume Control
* LogPot
.backanno
.end
